US08975400B2
7-((4-(3-chlorophenoxy)-3,5-difluorobenzyl)oxy)1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (30 mg, 0.162 mmol), sodium hydride (12.93 mg, 0.323 mmol) and (4-(3-chlorophenoxy)-3,5-difluorophenyl)methanol (43.7 mg, 0.162 mmol) in DMF (1.5 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.162 mmol, 30 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.323 mmol, 12.93 mg | [H-].[Na+]
reactant | (4-(3-chlorophenoxy)-3,5-difluorophenyl)methanol | 0.162 mmol, 43.7 mg | ClC=1C=C(OC2=C(C=C(C=C2F)CO)F)C=CC1 | C13H9ClF2O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-((4-(3-chlorophenoxy)-3,5-difluorobenzyl)oxy)1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C)C=C2F)F)C=CC1 | C20H16ClF2N3O3
